US07307165B2
Synthesis of N′-(6-chloro-2-trifluoromethylimidazo[1,2-b]pyridazin-3-ylsulfonyl)-N,N-dimethylformamidine
6-Chloro-2-trifluoromethylimidazo[1,2-b]pyridazin-3-ylsulfonamide (1.70 g, 5.65 mmol) was suspended in toluene (10.0 ml), and N,N-dimethylformamide dimethyl acetal (90%, 1.84 ml, 12.4 mmol) was added thereto and stirred for 3.5 hours under reflux. The reaction mixture was concentrated under reduced pressure. To the residue concentrated was added diisopropyl ether, and the crystals were collected by filtration to give the title compound as brown crystals. The yield was 1.96 g (97.4%).

reactant | 6-Chloro-2-trifluoromethylimidazo[1,2-b]pyridazin-3-ylsulfonamide | 5.65 mmol, 1.70 g | ClC=1C=CC=2N(N1)C(=C(N2)C(F)(F)F)S(=O)(=O)N | C7H4ClF3N4O2S
reactant | N,N-dimethylformamide dimethyl acetal | 12.4 mmol, 1.84 ml | COC(N(C)C)OC | C5H13NO2
solvent | toluene | 10.0 ml | C1(=CC=CC=C1)C | C7H8
product | N′-(6-chloro-2-trifluoromethylimidazo[1,2-b]pyridazin-3-ylsulfonyl)-N,N-dimethylformamidine | ClC=1C=CC=2N(N1)C(=C(N2)C(F)(F)F)S(=O)(=O)N=CN(C)C | C10H9ClF3N5O2S
